US08389511B2
Methyl 2,7-dimethyl-3-oxo-2-[3-(trifluoromethyl)phenyl]-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate
Using methyl 2-hydroxy-2-[3-(trifluoromethyl)phenyl]propanoate and methyl 4-fluoro-5-nitro-2-(trifluoromethyl)benzoate, the title compound was obtained in a similar manner to Reference Example 22 and Reference Example 2.

reactant | methyl 2-hydroxy-2-[3-(trifluoromethyl)phenyl]propanoate | OC(C(=O)OC)(C)C1=CC(=CC=C1)C(F)(F)F | C11H11F3O3
reactant | methyl 4-fluoro-5-nitro-2-(trifluoromethyl)benzoate | FC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C(F)(F)F | C9H5F4NO4
product | Methyl 2,7-dimethyl-3-oxo-2-[3-(trifluoromethyl)phenyl]-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | CC1(OC2=C(NC1=O)C=C(C(=C2)C)C(=O)OC)C2=CC(=CC=C2)C(F)(F)F | C19H16F3NO4
